US04851519
0.57 g of 2'-deoxy-5-n-propyluridine, 0.6 g of triphenylphosphine and 0.69 g of sodium azide were stirred in 20 ml of dry dimethylformamide. 0.77 g of carbon tetrabromide was added over a period of 5 minutes. The mixture was stirred at room temperature for 72 hours, 20 ml of methanol were added and the mixture was stirred for a further 0.5 hour. The mixture was evaporated and the residue was stirred with a mixture of 25 ml of dichloromethane/methanol (8:2). An insoluble solid was removed by filtration and the filtrate was chromatographed on 200 g of silica gel in the same solvent mixture to give 0.41 g of 5'-azido-2',5'-dideoxy-5-n-propyluridine of melting point 177°-179° C. (decomposition).

reactant | 2'-deoxy-5-n-propyluridine | 0.57 g | C(CC)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C12H18N2O5
reactant | triphenylphosphine | 0.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium azide | 0.69 g | [N-]=[N+]=[N-].[Na+]
reactant | carbon tetrabromide | 0.77 g | C(Br)(Br)(Br)Br | CBr4
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol | 20 ml | CO | CH4O
product | 5'-azido-2',5'-dideoxy-5-n-propyluridine | 0.41 g | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CCC)O | C12H17N5O4
